US05646173
3.34 g of N-[2-(4,5-dihydro-6-methoxy-1H-benz[g]indol-1-yl)ethyl]-acetamide were heated to 140° for 23 hours. under argon in 5 ml of ethylene glycol/water 2:1 in the presence of 3.93 g of potassium hydroxide. The reaction mixture was left to cool and was poured into 300 ml of semi-concentrated sodium chloride solution. The mixture was extracted three times with diethyl ether, dried over sodium sulfate, filtered and evaporated. The crude product was dissolved in 30 ml of methanol and treated with 1.61 g of fumaric acid. The separated crystals were recrystallized from a total of 140 ml of methanol. 3.8 g (90%) of 2-(4,5-dihydro-6-methoxy-1H-benz[g]indol-1-yl)-ethylamine fumarate (1:1) were obtained as yellowish crystals with m.p. 198°.

reactant | N-[2-(4,5-dihydro-6-methoxy-1H-benz[g]indol-1-yl)ethyl]-acetamide | 3.34 g | COC1=CC=CC2=C1CCC=1C=CN(C21)CCNC(C)=O | C17H20N2O2
reactant | potassium hydroxide | 3.93 g | [OH-].[K+]
reactant | sodium chloride | 300 ml | [Cl-].[Na+]
reactant | ethylene glycol water | 5 ml | C(CO)O.O
product | 2-(4,5-dihydro-6-methoxy-1H-benz[g]indol-1-yl)-ethylamine fumarate | 3.8 g, 90% | C(\C=C\C(=O)O)(=O)O.COC1=CC=CC2=C1CCC=1C=CN(C21)CCN | InChI=1S/C15H18N2O.C4H4O4/c1-18-14-4-2-3-13-12(14)6-5-11-7-9-17(10-8-16)15(11)13;5-3(6)1-2-4(7)8/h2-4,7,9H,5-6,8,10,16H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
